US05798364
A mixture of 2.97 g of 2-butyl-3-p-hydroxybenzyl-4,5-dihydro-4-oxo-3H-imidazo[4,5-c]pyridine (obtainable from IIIa and p-hydroxybenzyl bromide), 0.5 g of CH3ONa and 40 ml of DMSO is stirred for 0.5 hour. A solution of 2.2 g of o-cyanobenzyl bromide in 15 ml of DMSO is added dropwise and the mixture is stirred at 20° for 16 hours and evaporated to give 2-butyl-3-(4-o-cyanobenzyloxybenzyl)-4,5-dihydro-4-oxo-3H-imidazo[4,5-c]pyridine after conventional working-up.

reactant | 2-butyl-3-p-hydroxybenzyl-4,5-dihydro-4-oxo-3H-imidazo[4,5-c]pyridine | 2.97 g | C(CCC)C1=NC2=C(C(NC=C2)=O)N1CC1=CC=C(C=C1)O | C17H19N3O2
reactant | CH3ONa | 0.5 g | CO[Na]
reactant | o-cyanobenzyl bromide | 2.2 g | C(#N)C1=C(CBr)C=CC=C1 | C8H6BrN
solvent | DMSO | 15 ml | CS(=O)C | C2H6OS
solvent | DMSO | 40 ml | CS(=O)C | C2H6OS
product | 2-butyl-3-(4-o-cyanobenzyloxybenzyl)-4,5-dihydro-4-oxo-3H-imidazo[4,5-c]pyridine | C(CCC)C1=NC2=C(C(NC=C2)=O)N1CC1=CC=C(C=C1)OCC1=C(C=CC=C1)C#N | C25H24N4O2
